US07714099B2
Synthesis of 4,7-Dibromo-2-phenyl-2H-benzotriazole
The 3,6-dibromo-2-phenylazo-phenylamine (120 mg, 0.34 mmol), iodobenzene diacetate (109 mg, 0.34 mmol), and acetic acid (5 mL) were added to a 1-neck 100-mL round bottom flask. The solution was stirred for 1 h at room temperature. The solvent was reduced with a rotary evaporator and the flask was stored at −19° C. for 16 h resulting in the formation of a solid cake. Water was added to the solid cake to dissolve the acid. A crystalline solid was collected by filtration and washed with water. GC/MS confirmed the solid as the desired product. Yield: 50%.

reactant | 3,6-dibromo-2-phenylazo-phenylamine | 0.34 mmol, 120 mg | BrC=1C(=C(C(=CC1)Br)N)N=NC1=CC=CC=C1 | C12H9Br2N3
reactant | iodobenzene diacetate | 0.34 mmol, 109 mg | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
product | 4,7-Dibromo-2-phenyl-2H-benzotriazole | Yield: 50% | BrC1=CC=C(C2=NN(N=C21)C2=CC=CC=C2)Br | C12H7Br2N3
